2112-01-08 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 IABP LINE - START [**2112-1-8**] 02:30 AM
 SHEATH - START [**2112-1-8**] 02:30 AM
   arterial sheath
 SHEATH - START [**2112-1-8**] 03:28 AM
   venous side arm
   vomited soon after arriving at CCU
   EKG showed inferior Qs
   Chest pain improved on morphine
   Glucose in the 400s
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 5 mcg/Kg/min
   Eptifibatide (Integrilin) - 2 mcg/Kg/min
   Heparin Sodium - 1,050 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2112-1-8**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-1-8**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 110 (101 - 114) bpm
   BP: 101/69(85) {78/53(68) - 102/70(85)} mmHg
   RR: 25 (12 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             653 mL
   PO:
             450 mL
   TF:
   IVF:
   203 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    200 mL
   Urine:
   NG:
   200 mL
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    453 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   GENERAL: NAD. Oriented x3.  very anxious.
   HEENT: NCAT.JVP flat.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR.
   Unable to assess for m/r/g as IABP in plae.
   LUNGS: CTA anterolaterally
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No c/c/e. No femoral bruits.
   SKIN: Multiple tatoos on arms and chest
   PULSES:
   Right: Carotid 2+ DP/PT dopplerable
   Left: Carotid 2+ DP/PT dopplerable
   Labs / Radiology
   241 K/uL
   11.4 g/dL
   412
   0.8 mg/dL
   20 mEq/L
   4.0 mEq/L
   17 mg/dL
   107 mEq/L
   137 mEq/L
   33.2 %
   10.6 K/uL
        [image002.jpg]
                             [**2112-1-8**]  03:05 AM
                             [**2112-1-8**]  06:00 AM
   WBC
   10.6
   Hct
   33.2
   Plt
   241
   Cr
   0.8
   TropT
   2.46
   Glucose
   404
   412
   Other labs: PT / PTT / INR:13.2/ 46.8/1.1, CK / CKMB /
   Troponin-T:553/60/2.46, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   71 y/o M w/ HTN, DM II, HPL who presents with STEMI in RCA
   distribution.
   .
   # CORONARIES:  s/p STEMI.  Patient's EKG with STEs in II, III, AVF;
   depressions in lateral leads.  STE in III > II.  Cath showed thrombus
   in proximal RCA, not amenable to export catheter with ease, likely
   representing subacute thombus.  Patient s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1285**] [**Last Name (Prefixes) **] 3 to prox-mid RCA.
   Found to have 70% stenosis of LAD that was not intervened upon.
   - Atorvastatin 80mg daily,  ASA 325mg daily, Plavix 75mg daily
   - hold off on beta-blocker as the tachycardia is likely compensatory
   - Eptibatfide gtt 18hrs post procedurally
   - wean dopamine as tolerated
   - continue IABP
   - TTE today
   .
   # PUMP:  Patient's RHC demonstrated RV pressures of 44/20, RVEDP 23,
   Mean Wedge 29, PA pressure 44/30/39(mean).  LV gram was not performed
   as concern for dye load.  Not grossly volume overloaded on R on exam.
   Patient's lungs clear anterolaterally, saturating 97% 2LNC.  Currently
   with IABP to reduce cardiac demand.
   - f/u TTE today
   - wean dopamine as tolerated
   - continue Heparin gtt as patient with IABP
   .
   # RHYTHM:  Currently in NSR.  Currently with femoral venous sheath if
   needing to intoduce pacer wire.
   - Monitor on tele
   .
   #  HTN:  Currently on Dopamine and with IABP
   - Hold off on antihypertensives
   - wean off dopamine today
   .
   # DM II: glucose high in the 400s overnight.
   - hold oral agents
   - start insulin gtt, goal glucose 120
   - F/u hemoglobin A1c
   .
   #  HPL:
   - Start Atorvastatin 80mg
   - f/u lipid profile
   .
   # BPH:
   - continue outpatient finasteride
   ICU Care
   Nutrition:
   Cardiac healthy diabetic diet
   Glycemic Control:
   Lines:
   IABP line - [**2112-1-8**] 02:30 AM
   18 Gauge - [**2112-1-8**] 02:30 AM
   20 Gauge - [**2112-1-8**] 02:59 AM
   Sheath - [**2112-1-8**] 03:28 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: not indicated
   VAP:  not indicated
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: CCU
   ------ Protected Section ------
   Attending
s Note:
   Reviewed data and examined Pt.
   Much better.Continue IABP
   Rx plan as outlined by Dr.[**First Name (STitle) 2589**].
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   Spent 40mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2112-1-9**] 12:23 ------

2112-01-09 07:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Dopamine weaned from 5 to 4
   - TTE: EF 40%, Dilated and hypocontractile right ventricle, c/w right
   ventricular infarction. Moderate ischemic mitral regurgitation. Mild
   pulmonary hypertension. Dilated aorta.
   - HgbA1c 6.2%
   - Cholesterol 137, TG 57, HDL 37, LDL 89
   - On insulin gtt @ 7u/hr, blood sugar goal 120-150
   - got compazine & IVF's for nausea/emesis
   - 2 episodes of pleuritic chest pain, improved with morphine, EKG's
   improved compared, VSS
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 1 units/hour
   Dopamine - 4 mcg/Kg/min
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Heparin Sodium - [**2112-1-8**] 12:12 PM
   Lorazepam (Ativan) - [**2112-1-9**] 05:28 AM
   Morphine Sulfate - [**2112-1-9**] 05:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-1-9**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.9
C (96.6
   HR: 100 (100 - 114) bpm
   BP: 96/68(81) {88/57(75) - 108/81(94)} mmHg
   RR: 22 (19 - 32) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 89.4 kg (admission): 89 kg
             Total In:
                                                                  5,080 mL
                                                                  1,133 mL
   PO:
                                                                  1,470 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  3,610 mL
                                                                    833 mL
   Blood products:
   Total out:
                                                                  3,150 mL
                                                                    268 mL
   Urine:
                                                                  1,100 mL
                                                                    268 mL
   NG:
                                                                  2,050 mL
   Stool:
   Drains:
   Balance:
                                                                  1,930 mL
                                                                    865 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   GENERAL: NAD. Oriented x3.  very anxious.
   HEENT: NCAT.JVP flat.
   CARDIAC: PMI located in 5th intercostal space, midclavicular line. RR.
   Unable to assess for m/r/g as IABP in place.
   LUNGS: CTA anterolaterally
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No c/c/e. No femoral bruits. Cool right leg, but good
   movement, capillary refill
   SKIN: Multiple tattoos on arms and chest
   PULSES:
   Right: Carotid 2+ DP/PT dopplerable
   Left: Carotid 2+ DP/PT dopplerable
   Labs / Radiology
   241 K/uL
   12.4 g/dL
   106
   1.1 mg/dL
   18 mEq/L
   4.1 mEq/L
   31 mg/dL
   105 mEq/L
   136 mEq/L
   36.5 %
   17.0 K/uL
        [image002.jpg]
                             [**2112-1-8**]  10:00 PM
                             [**2112-1-8**]  11:00 PM
                             [**2112-1-9**]  12:00 AM
                             [**2112-1-9**]  01:00 AM
                             [**2112-1-9**]  02:00 AM
                             [**2112-1-9**]  03:00 AM
                             [**2112-1-9**]  04:00 AM
                             [**2112-1-9**]  04:58 AM
                             [**2112-1-9**]  05:00 AM
                             [**2112-1-9**]  06:00 AM
   WBC
   17.0
   Hct
   36.5
   Plt
   241
   Cr
   1.1
   Glucose
   135
   145
   139
   138
   124
   104
   115
   102
   112
   106
   Other labs: PT / PTT / INR:14.6/79.2/1.3, CK / CKMB /
   Troponin-T:443/30/2.92, Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   71 y/o M w/ HTN, DM II, HPL who presents with STEMI in RCA
   distribution.
   .
   # CORONARIES:  s/p STEMI.  Patient's EKG with STEs in II, III, AVF;
   depressions in lateral leads.  STE in III > II.  Cath showed thrombus
   in proximal RCA, not amenable to export catheter with ease, likely
   representing subacute thombus.  Patient s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1285**] [**Last Name (Prefixes) **] 3 to prox-mid RCA.
   Found to have 70% stenosis of LAD that was not intervened upon.
   Integrillin therapy completed. Patient fluid avid s/p multiple episodes
   of emesis yesterday, received 3.5L IVF yesterday with improvement in
   UOP, but remains dry.
   - Atorvastatin 80mg daily,  ASA 325mg daily, Plavix 75mg daily
   - IABP to 1:2 today, with plan to D/C if stable
   - 1L NS IVF
s, continue to replete as clinical exam/VS indicate
   - hold off on beta-blocker as the tachycardia is likely compensatory
   - Continue Dopamine until IABP pulled
   .
   # PUMP:  Patient's RHC demonstrated RV pressures of 44/20, RVEDP 23,
   Mean Wedge 29, PA pressure 44/30/39(mean).  LV gram was not performed
   as concern for dye load.  Not grossly volume overloaded on R on exam.
   Patient's lungs clear anterolaterally, saturating 97% 2LNC.  Currently
   with IABP to reduce cardiac demand.  TTE from [**1-8**] demonstrates an EF
   40%, dilated and hypocontractile right ventricle, c/w right ventricular
   infarction. Moderate ischemic mitral regurgitation. Mild pulmonary
   hypertension. Dilated aorta.
   - Continue Dopamine at 4 today
   - Continue Heparin gtt until IABP pulled
   .
   # RHYTHM:  Currently in NSR and with femoral venous sheath if needing
   to introduce pacer wire.
   - Monitor on telemetry
   .
   #  HTN:  Currently on Dopamine, weaned from 5 to4 yesterday and
   currently with IABP in place.
   - Hold off on antihypertensives
   - Continue Dopamine today, do not wean
   .
   # DM II: Glucose on admission high in the 400s, started on Insulin gtt
   with improvement in FSG
s. Range 106-145 over the past 24 hours.
   HgbA1c 6.2%.
   - Transition to fixed dose & sliding scale
   - Goal glucose 120-150
   .
   #  HPL:  Cholesterol 137, TG 57, HDL 37, LDL 89
   - Continue Atorvastatin 80mg
   .
   # BPH:
   - continue outpatient finasteride
   ICU Care
   Nutrition: Cardiac/diabetic diet
   Glycemic Control:  Insulin gtt
   Lines:
   IABP line - [**2112-1-8**] 02:30 AM
   18 Gauge - [**2112-1-8**] 02:30 AM
   20 Gauge - [**2112-1-8**] 02:59 AM
   Sheath - [**2112-1-8**] 03:28 AM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Patient
   Code status: FULL
   Disposition: pending clinical improvement
   ------ Protected Section ------
   Attending
s Note:09.30hrs
   Reviewed data and examined Pt.
   Much better.Attempt to wean off IABP
   Rx plan as outlined by Dr.[**Last Name (STitle) 10179**]
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   Spent 40mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2112-1-9**] 12:24 ------

2112-01-10 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2112-1-9**] 09:00 AM
 BLOOD CULTURED - At [**2112-1-9**] 09:15 AM
 SHEATH - STOP [**2112-1-9**] 04:58 PM
   venous side arm
 IABP LINE - STOP [**2112-1-9**] 04:59 PM
 SHEATH - STOP [**2112-1-9**] 05:00 PM
   arterial sheath
   [**1-9**]:
   - IABP pulled.
   - UOP poor before and after;
   - Replete fluids PRN
   - Transition to insulin fixed & sliding scale
   - given 20mg and then 40mg IV lasix at 2106 for tachypnea with
   diminished breathsounds and low UOP
   - Found to have cool feet, started heparin
   - labs give cr 1.9 and falling hct; ABG with 3.9 lactate and
   7.43/19/84.[**Numeric Identifier 1132**]/14/-8 --> given fluids
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 1 mcg/Kg/min
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2112-1-9**] 09:14 PM
   Morphine Sulfate - [**2112-1-10**] 03:31 AM
   Lorazepam (Ativan) - [**2112-1-10**] 04:41 AM
   Heparin Sodium - [**2112-1-10**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-1-10**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.2
C (97.2
   HR: 102 (97 - 113) bpm
   BP: 86/65(70) {84/51(23) - 101/71(81)} mmHg
   RR: 25 (20 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 97 kg (admission): 89 kg
             Total In:
                                                                  3,642 mL
                                                                    780 mL
   PO:
                                                                  1,740 mL
                                                                    390 mL
   TF:
   IVF:
                                                                  1,902 mL
                                                                    390 mL
   Blood products:
   Total out:
                                                                    703 mL
                                                                    210 mL
   Urine:
                                                                    703 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,939 mL
                                                                    570 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.43/19/84.[**Numeric Identifier 1132**]/14/-8
   Physical Examination
   General Appearance: Well nourished, Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Absent), (Left DP pulse: Absent),
   Very cool to touch
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   left crackles, Diminished: bibasilar)
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   231 K/uL
   11.3 g/dL
   185
   1.9 mg/dL
   14 mEq/L
   4.5 mEq/L
   58 mg/dL
   99 mEq/L
   132 mEq/L
   32.9 %
   14.0 K/uL
        [image002.jpg]
                             [**2112-1-9**]  02:00 PM
                             [**2112-1-9**]  03:00 PM
                             [**2112-1-9**]  04:00 PM
                             [**2112-1-9**]  06:00 PM
                             [**2112-1-9**]  07:00 PM
                             [**2112-1-9**]  10:00 PM
                             [**2112-1-10**]  12:30 AM
                             [**2112-1-10**]  04:46 AM
                             [**2112-1-10**]  05:00 AM
                             [**2112-1-10**]  07:02 AM
   WBC
   14.0
   Hct
   32.9
   Plt
   231
   Cr
   1.9
   TCO2
   13
   Glucose
   129
   145
   142
   144
   146
   171
   170
   179
   185
   Other labs: PT / PTT / INR:14.6/98.6/1.3, CK / CKMB /
   Troponin-T:443/30/2.92, Differential-Neuts:81.1 %, Lymph:12.6 %,
   Mono:6.2 %, Eos:0.1 %, Lactic Acid:3.9 mmol/L, Ca++:7.8 mg/dL, Mg++:2.4
   mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   71 y/o M w/ HTN, DM II, HPL who presents with STEMI in RCA
   distribution.
   .
   # Cool feet: Patient with poor DPs on admission now not dopplerable.
   This is bilateral and the loss of dop-tone begins in the popliteal
   artery implying a gradation of poor flow and peripheral
   vasoconstriction in the setting of pressors (though low dose) and a
   vigorous sympathetic drive [**1-12**] anxiety or blood loss.
   - heparin gtt
   - fluids - 500 bolus, 500 by 100/hr
   - T/S active
   - low threshold to CT pelvis
   - wean pressors
   .
   # Tachypnea and anxiety: Patient with baseline anxiety at home, taking
   valium. On exam, he had diminished breath sounds so he received a trial
   of furosemide in light of his positive fluid balance. He did not
   increase UOP and the tachypnea persisted, even despite Ativan doses.
   ABG on [**1-10**] shows CO of 19. This may be compensatory for a metabolic
   acidosis (Anion Gap 19 on [**1-10**]).
   - may avoid ativan if benzo's paradoxically worsen anxiety
   - consider zyprexa
   .
   # MEtabolic Acidosis, Compensated: Anion gap of 13 on [**1-9**] and 19 on
   [**1-10**]. Lactic Acid of 3.9 in the setting of cool feet and pressors.
   Other sources are renal failure (though acute and not in proportion to
   acidosis) and Diabetic ketoacidosis
   - FLuids
   - insulin
   - Lytes in PM
   .
   # CORONARIES:  s/p STEMI.  Patient's EKG with STEs in II, III, AVF;
   depressions in lateral leads.  STE in III > II.  Cath showed thrombus
   in proximal RCA, not amenable to export catheter with ease, likely
   representing subacute thombus.  Patient s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1285**] [**Last Name (Prefixes) **] 3 to prox-mid RCA.
   Found to have 70% stenosis of LAD that was not intervened upon.
   Integrillin therapy completed. Patient fluid avid s/p multiple episodes
   of emesis yesterday, received 3.5L IVF yesterday with improvement in
   UOP. IABP removed on [**1-9**]. Dopamine being weaned.
   - Atorvastatin 80mg daily,  ASA 325mg daily, Plavix 75mg daily
   - hold off on beta-blocker as the tachycardia is likely compensatory
   - wean dopamine
   .
   # PUMP:  Patient's RHC demonstrated RV pressures of 44/20, RVEDP 23,
   Mean Wedge 29, PA pressure 44/30/39(mean).  LV gram was not performed
   as concern for dye load.  Not grossly volume overloaded on R on exam.
   Patient's lungs clear anterolaterally, saturating 97% 2LNC.  Currently
   with IABP to reduce cardiac demand.  TTE from [**1-8**] demonstrates an EF
   40%, dilated and hypocontractile right ventricle, c/w right ventricular
   infarction. Moderate ischemic mitral regurgitation. Mild pulmonary
   hypertension. Dilated aorta.
   - wean dopa as possible
   .
   # RHYTHM:  Currently in NSR and with femoral venous sheath if needing
   to introduce pacer wire.
   - Monitor on telemetry
   .
   #  HTN:  Currently on Dopamine, weaned from 5 to4 yesterday and
   currently with IABP in place.
   - Hold off on antihypertensives
   - Continue Dopamine today, do not wean
   .
   # DM II: Glucose on admission high in the 400s, started on Insulin gtt
   with improvement in FSG
s. Range 106-145 over the past 24 hours.
   HgbA1c 6.2%. Transitioned to fixed dose & sliding scale
   - Goal glucose 120-150
   .
   #  HPL:  Cholesterol 137, TG 57, HDL 37, LDL 89
   - Continue Atorvastatin 80mg
   .
   # BPH:
   - continue outpatient finasteride
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2112-1-8**] 02:30 AM
   20 Gauge - [**2112-1-8**] 02:59 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Attending
s Note;08.00Hrs
   Reviewed data and examined Pt.
   Rx as outlined by Dr.[**Last Name (STitle) **]
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4877**]
   Spent 45mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4877**]
   on:[**2112-1-10**] 08:13 ------